US06211215B1
In substantially the same manner as in Working Example 72, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 4-chloromethyl-2-(9-fluorenone-2-yl)oxazole to give 2-(9-fluorenone-2-yl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole. The yield was 86%. Recrystallization from ethanol gave yellow needles, mp 153-154° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 4-chloromethyl-2-(9-fluorenone-2-yl)oxazole | ClCC=1N=C(OC1)C1=CC=2C(C3=CC=CC=C3C2C=C1)=O | C17H10ClNO2
product | 2-(9-fluorenone-2-yl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole | yield was 86% | C1=C(C=CC=2C3=CC=CC=C3C(C12)=O)C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C=NC=C1 | C29H23N3O3
